US08222416B2
A solution of 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine (1.4 g, 4.3 mmol) in tetrahydrofuran (20 mL) and methanol (40 mL) was treated with 10% palladium on carbon (285 mg). The reaction was stirred at 25° C. under hydrogen atmosphere for 3 d. At this time, the reaction mixture was filtered and was washed with tetrahydrofuran (2×15 mL). The filtrate was concentrated in vacuo. Silica gel column chromatography (300-400 mesh, 25% ethyl acetate/petroleum ether) afforded 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbutyl)-1H-pyrrolo[2,3-b]pyridine (1.03 g, 71.8%) as a white solid: 1H NMR (300 MHz, d6-DMSO) δ ppm 11.62 (s, 1H), 8.48 (d, 1H, J=1.8 Hz), 8.10 (d, 1H, J=4.5 Hz), 7.89 (s, 1H), 7.81 (d, 1H, J=7.5 Hz), 7.73 (s, 1H), 7.65 (d, 1H, J=8.4 Hz), 7.41 (t, 1H, J=7.8 Hz), 7.31 (d, 1H, J=7.5 Hz), 6.97 (dd, 1H, J1=7.8 Hz, J2=4.8 Hz), 6.54 (s, 1H), 6.33 (s, 1H), 4.28 (t, 1H, J=8.1 Hz), 2.17-2.10 (m, 1H), 1.97-1.90 (m, 1H), 1.45-1.36 (m, 1H), 0.93 (d, 3H, J=2.4 Hz), 0.91 (d, 3H, J=2.7 Hz).

reactant | 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbut-1-enyl)-1H-pyrrolo[2,3-b]pyridine | 4.3 mmol, 1.4 g | N1(N=CC=C1)C=1C=C(C=CC1)C(=CC(C)C)C1=CC=2C(=NC=CC2)N1 | C21H20N4
solvent | tetrahydrofuran | 20 mL | O1CCCC1 | C4H8O
solvent | methanol | 40 mL | CO | CH4O
catalyst | palladium on carbon | 285 mg | [Pd] | Pd
product | 2-(1-(3-(1H-pyrazol-1-yl)phenyl)-3-methylbutyl)-1H-pyrrolo[2,3-b]pyridine | 1.03 g, 71.8% | N1(N=CC=C1)C=1C=C(C=CC1)C(CC(C)C)C1=CC=2C(=NC=CC2)N1 | C21H22N4
